US07153861B2
tert-Butyl (2-hydroxyethyl)ethylcarbamate
Di-tert-butyl dicarbonate (15.5 g, 1 equiv) was added over a period of 1 hour to a solution of 2-(ethylamino)ethanol (7.5 g, 1 equiv) in dichloromethane (30 ml) at 0° C. After stirring at room temperature for 16 hours, the solvent was evaporated and the residue distilled (115° C., 0.6 mmHg) to afford the title compound as a colourless oil (13.42 g). 1H-NMR (CDCl3) δ 1.11 (3H, t), 1.47 (9H, s), 3.27 (2H, q), 3.38 (2H, t), 3.75 (2H, t).

reactant | Di-tert-butyl dicarbonate | 15.5 g, 1 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(ethylamino)ethanol | 7.5 g, 1 equiv | C(C)NCCO | C4H11NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | tert-Butyl (2-hydroxyethyl)ethylcarbamate | 13.42 g | OCCN(C(OC(C)(C)C)=O)CC | C9H19NO3
